US09315467B2
Preparation of 3-[4-(4-Isopropyl-phenyl)-pyridin-2-yl]-benzoic acid (Compound 7)
Part E. A solution of ethyl 3-[4-(4-isopropyl-phenyl)-pyridin-2-yl]-benzoate (116 mg, 0.34 mmol) in methanol-water (3 mL/1 mL) is treated with lithium hydroxide hydrate (41 mg, 1.7 mmol). The mixture is stirred at ambiemperature for 12 h., then partitioned between water and diethyl ether. The aqueous phase is neutralized to pH 7 with 3 N aq. HCl and extracted with ethyl acetate. The extract is washed with brine, dried over magnesium sulfate, filtered and evaporated to afford the title compound as a white powder (92 mg, 85%), m.p. 233-234° C. 1H NMR (300 MHz, methanol-d4): δ 8.66 (1H, s), 8.65 (1H, d, J=8 Hz), 8.25 (1H, d, J=8 Hz), 8.14-8.11 (2H, m), 7.78 (2H, d, J=9 Hz), 7.69-7.62 (2H, m), 7.42 (2H, d, J=9 hz), 3.00 (1H, heptet, J=7 Hz), 1.30 (6H, d, J=7 Hz). MS (ES+): m/e x. MS (ES−): m/e 319 (20), 318 (100).

reactant | ethyl 3-[4-(4-isopropyl-phenyl)-pyridin-2-yl]-benzoate | 0.34 mmol, 116 mg | C(C)(C)C1=CC=C(C=C1)C1=CC(=NC=C1)C=1C=C(C(=O)OCC)C=CC1 | C23H23NO2
reactant | lithium hydroxide hydrate | 1.7 mmol, 41 mg | O.[OH-].[Li+]
solvent | methanol water | 3 mL | CO.O
product | 3-[4-(4-Isopropyl-phenyl)-pyridin-2-yl]-benzoic acid | 92 mg, 85% | C(C)(C)C1=CC=C(C=C1)C1=CC(=NC=C1)C=1C=C(C(=O)O)C=CC1 | C21H19NO2
